US06969716B2
4,2′-Difluoro-5′-[3-(2,4-difluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile
4,2′-Difluoro-5′-(3-methylsulfanyl-[1,2,4]triazin-5-yl)biphenyl-2-carbonitrile (0.15 g, 0.44 mmol) was coupled to 2,4-difluorobenzeneboronic acid (0.135 g, 0.97 mmol) by the method of Example 2 to give the title product as a pale yellow solid (124 mg): δH (400 MHz, CDCl3) 6.99-7.11 (2H, m), 7.44-7.48 (2H, m), 7.54-7.59 (2H, m), 8.32-8.39 (3H, m) 9.65 (1H, s); m/z (ES+) 407 (M++H).

reactant | 4,2′-Difluoro-5′-(3-methylsulfanyl-[1,2,4]triazin-5-yl)biphenyl-2-carbonitrile | 0.44 mmol, 0.15 g | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C=1N=C(N=NC1)SC)F)C#N | C17H10F2N4S
reactant | 2,4-difluorobenzeneboronic acid | 0.97 mmol, 0.135 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 4,2′-Difluoro-5′-[3-(2,4-difluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile | 124 mg | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F)F)C#N | C22H10F4N4
